US06476038B1
D. Cyclopentyl-[2-(2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino)-ethyl]-carbamic acid tert-butyl ester
To a stirred solution of the crude N-cyclopentyl-N′-(2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl)-ethane-1,2-diamine (5.6 g) in methylene chloride (24 mL)/methanol (2 mL) was added di-tert-butyl dicarbonate (5.1 g, 23 mmol) and then 4-dimethylaminopyridine (0.6 g, 4.9 mmol). After stirring 5 hours the reaction was concentrated under reduced pressure and then chromatographed (1:1 ethyl acetate/hexanes) to afford the title compound as an orange glass (2.3 g 39% from B)): +APcI MS (M+1)+ 374; 1H NMR (CDCl3) δ: 6.16 (s, 1H), 5.78 (s, 1H), 4.25-4.15 (br s, 1H), 3.47 (m, 4H), 2.47 (s, 3H), 2.41 (s, 3H), 1.51 (s, 9H).

reactant | N-cyclopentyl-N′-(2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl)-ethane-1,2-diamine | 5.6 g | C1(CCCC1)NCCNC1=CC(=NC=2N1N=C(C2)C)C | C15H23N5
reactant | methanol | 2 mL | CO | CH4O
reactant | di-tert-butyl dicarbonate | 23 mmol, 5.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 24 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.9 mmol, 0.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Cyclopentyl-[2-(2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino)-ethyl]-carbamic acid tert-butyl ester | 2.3 g, 39% | C(C)(C)(C)OC(N(CCNC1=CC(=NC=2N1N=C(C2)C)C)C2CCCC2)=O | C20H31N5O2
